US07368567B2
A 2M solution of methyl amine in methanol (10 mL) and methansulfonic acid 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(S)-yl-methyl ester (0.87 g, 2.26 mmol) were heated in a microwave at 100° C. for 3 hours. The solvent was removed under reduced pressure and the crude material was purified by flash chromatography on silica gel (eluting with dichloromethane—methanol; 98:2, v/v) to give (7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(R)-ylmethyl)-methyl-amine as a white solid (0.557 g; 77%), which was converted to a hydrochloride salt: MS (M)+ 319; m. p. 240.0-243.6° C., [α]=+40.5° (methanol; c=1).

reactant | methyl amine | CN | CH5N
reactant | methansulfonic acid 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(S)-yl-methyl ester | 2.26 mmol, 0.87 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(O[C@@H](CO2)COS(=O)(=O)C)C1 | C16H16O7S2
solvent | methanol | 10 mL | CO | CH4O
product | (7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(R)-ylmethyl)-methyl-amine | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(O[C@@H](CO2)CNC)C1 | C16H17NO4S
